US08420816B2
(R)-N-(cyanomethyl)-3,3-dimethyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanamide
(R)-3,3-Dimethyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid (40.0 mg, 0.139 mmol), HOBt hydrate (25.6 mg, 0.167 mmol), and EDC hydrochloride (40.0 mg, 0.209 mmol) were combined in DMF (2 mL). 2-Aminoacetonitrile (11.71 mg, 0.209 mmol) and 4-methylmorpholine (0.062 mL, 0.557 mmol) were added, and the reaction mixture was stirred at room temperature for 2 h. The product was purified by preparative HPLC (10-45% AcCN/H2O with 0.035% TFA), concentrated in vacuo, and lyophilized to afford the title compound as a pale yellow solid (36 mg, 59%). 1H NMR (500 MHz, DMSO-d6) δ 1.09 (s, 9H), 4.01-4.12 (m, 2H), 5.13-5.22 (m, 2H), 5.33 (br s, 1H), 7.10 (d, J=4.5 Hz, 1H), 7.87 (s, 1H), 8.26 (d, J=4.5 Hz, 1H), 8.86 (br s, 1H), 12.25 (br s, 1H). [M+H] calc'd for C17H19N5O2, 326; found, 326.

reactant | (R)-3,3-Dimethyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid | 0.139 mmol, 40.0 mg | CC([C@H](C(=O)O)N1CC=2C=CN=C3C2C(C1=O)=CN3)(C)C | C15H17N3O3
reactant | HOBt hydrate | 0.167 mmol, 25.6 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC hydrochloride | 0.209 mmol, 40.0 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-Aminoacetonitrile | 0.209 mmol, 11.71 mg | NCC#N | C2H4N2
reactant | 4-methylmorpholine | 0.557 mmol, 0.062 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-N-(cyanomethyl)-3,3-dimethyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanamide | 36 mg, 59% | C(#N)CNC([C@@H](C(C)(C)C)N1CC=2C=CN=C3C2C(C1=O)=CN3)=O | C17H19N5O2
